US08486941B2
A solution of ethyl 4-(2-(4-morpholinophenylamino)pyrimidin-4-yl)benzoate (35.39 g, 87.6 mmol) in 3:1 methanol/tetrahydrofuran (350 mL) was treated with lithium hydroxide (4.41 g, 183.9 mmol) in water (90 mL). The mixture was heated at reflux for 2 h., cooled, concentrated and acidified with hydrochloric acid (2M, 92.5 mL, 185 mmol). The dark precipitate was filtered, washed with water, and dried under vacuum. The solid was ground to a powder with a mortar and pestle, triturated with methanol (500 mL) then filtered again to yield 4-(2-(4-morpholinophenylamino)pyrimidin-4-yl)benzoic acid as a muddy solid. This material was washed with ether, air dried overnight, and ground to a fine powder with mortar and pestle. On the basis of mass recovery (34.49 g) the yield was assumed to be quantitative. 1H NMR (300 MHz, d6-DMSO) δ 9.47 (1H, s); 8.53 (1H, d, J=5.2 Hz); 8.24 (2H, d, J=8.5 Hz); 8.08 (2H, d, J=8.8 Hz), 7.66 (2H, d, J=9.1 Hz); 7.37 (1H, d, J=5.2 Hz); 6.93 (2H, d, J=9.1 Hz); 3.73 (4H, m); 3.04 (4H, m). LC-ESI-MS (method C): rt 7.3 min.; m/z 377.1 [M+H]+.

reactant | ethyl 4-(2-(4-morpholinophenylamino)pyrimidin-4-yl)benzoate | 87.6 mmol, 35.39 g | O1CCN(CC1)C1=CC=C(C=C1)NC1=NC=CC(=N1)C1=CC=C(C(=O)OCC)C=C1 | C23H24N4O3
reactant | methanol tetrahydrofuran | 350 mL | CO.O1CCCC1
reactant | lithium hydroxide | 183.9 mmol, 4.41 g | [OH-].[Li+]
reactant | hydrochloric acid | 185 mmol, 2M, 92.5 mL | Cl | ClH
solvent | water | 90 mL | O | H2O
product | 4-(2-(4-morpholinophenylamino)pyrimidin-4-yl)benzoic acid | O1CCN(CC1)C1=CC=C(C=C1)NC1=NC=CC(=N1)C1=CC=C(C(=O)O)C=C1 | C21H20N4O3
